US06599917B1
(3-Pyridyl)tributyltin
1.45 ml of a hexane solution containing 1.54 M normal butyl lithium was added dropwise into 200 ml of diethyl solution containing 10.0 g of 3-bromopyridine at −78° C. in a nitrogen atmosphere over 10 minutes. After the dropwise addition, the mixture was stirred for 10 minutes and then 20 ml of tributyltin chloride was added dropwise thereinto over 10 minutes. Then, after stirring for 30 minutes, water was added to the reaction mixture and then extracted with ethyl acetate. The extract was washed with brine and the solvent was removed. The residue was subjected to silica column chromatography and eluted with hexane and then with hexane/ethyl acetate (7:1), to give 21.9 g of the target compound.

reactant | hexane | 1.45 ml | CCCCCC | C6H14
reactant | normal butyl lithium | 1.54 M | C(CCC)[Li]
reactant | 3-bromopyridine | 10.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | tributyltin chloride | 20 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | water | O | H2O
product | (3-Pyridyl)tributyltin | 21.9 g | N1=CC(=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H4N.3C4H9.Sn/c1-2-4-6-5-3-1;3*1-3-4-2;/h1-2,4-5H;3*1,3-4H2,2H3;
